US08211908B2
To a solution of 0.49 g of 5-fluoro-3-((methoxymethoxy)methyl)-2-methylpyridine in 20 mL of dioxane, 10 mL of 6.0 mol/L hydrochloric acid was added, and the mixture was stirred at 30 to 40° C. for 1 hour. Thereto were added water and ethyl acetate, and the mixture was adjusted to pH 5.5 with a 20% aqueous sodium hydroxide solution and a saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate twice. The organic layer and the extract were combined, the resultant solution was washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 0.41 g of (5-fluoro-2-methylpyridin-3-yl)methanol as a light yellow oily substance.

reactant | 5-fluoro-3-((methoxymethoxy)methyl)-2-methylpyridine | 0.49 g | FC=1C=C(C(=NC1)C)COCOC | C9H12FNO2
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 6.0 mol/L, 10 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-fluoro-2-methylpyridin-3-yl)methanol | 0.41 g | FC=1C=C(C(=NC1)C)CO | C7H8FNO
